US09382255B2
3-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)prop-2-yn-1-ol
A mixture comprising 3.00 g (12.9 mmol) 6-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (CAS-No: 784150-41-0), 90 mL tetrahydrofuran, 3.0 mL prop-2-yn-1-ol, 246 mg copper(I) iodide, 746 mg tetrakis(triphenylphosphine)palladium(0) and 3.93 mL N,N-diisopropylethylamine was heated at 80° C. for 4 hours. Water was added and the mixture extracted with ethylacetate/methanol (8:2). The organic layer was washed with brine and dried over sodium sulfate. After filtration and removal of the solvents the residue was purified by chromatography to give 833 mg (31%) of the title compound.

reactant | 6-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 12.9 mmol, 3.00 g | BrC1=CC2=C(N=CN=C2Cl)N1 | C6H3BrClN3
reactant | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
reactant | prop-2-yn-1-ol | 3.0 mL | C(C#C)O | C3H4O
reactant | N,N-diisopropylethylamine | 3.93 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | copper(I) iodide | 246 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 746 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 3-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)prop-2-yn-1-ol | 833 mg, 31% | ClC=1C2=C(N=CN1)NC(=C2)C#CCO | C9H6ClN3O
